US04092304
21.1 Parts N-t-butoxycarbonyl-L-tyrosylglycylglycyl-L-tryptophyl-L-methionine benzyl ester is dissolved in 70 parts methanol and the solution cooled to 10° C. Then, 90 parts by volume of 1 N sodium hydroxide solution is added dropwise with stirring while maintaining the temperature below 20° C. After standing at room temperature for 1 hour, the methanol is removed by evaporation under reduced pressure. The solution is washed once with ethyl ether to remove benzyl alcohol and the aqueous layer acidified with 90 parts by volume 1 N hydrochloric acid. The solid which results is filtered and washed with water to afford N-t-butoxycarbonyl-L-tyrosylglycylglycyl-L-tryptophyl-L-methionine.

reactant | N-t-butoxycarbonyl-L-tyrosylglycylglycyl-L-tryptophyl-L-methionine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(CNC(CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O)=O)=O)CC1=CNC2=CC=CC=C12)=O)CCSC)=O | C41H50N6O9S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | N-t-butoxycarbonyl-L-tyrosylglycylglycyl-L-tryptophyl-L-methionine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)O | C34H44N6O9S
